US07074800B1
A mixture of 2-chloro-3-fluoro-7-methoxyquinoline (310 mg, 1.47 mmol), triethylamine (310 mg, 0.4 ml, 3.07 mmol) and 10% palladium on activated charcoal (50 mg) in dry ethanol (5 ml) was stirred under hydrogen gas at ambient temperature for 24 hours. The mixture was then filtered through celite. The celite was washed with methanol and the solvent was removed by evaporation from the combined filtrates. The crude material was purified by chromatography on silica, eluting with 10% ethyl acetate in isohexane to give 3-fluoro-7-methoxyquinoline (130 mg, 54%).

reactant | 2-chloro-3-fluoro-7-methoxyquinoline | 1.47 mmol, 310 mg | ClC1=NC2=CC(=CC=C2C=C1F)OC | C10H7ClFNO
reactant | triethylamine | 3.07 mmol, 0.4 ml, 310 mg | C(C)N(CC)CC | C6H15N
catalyst | palladium on activated charcoal | 50 mg | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-fluoro-7-methoxyquinoline | 130 mg, 54% | FC=1C=NC2=CC(=CC=C2C1)OC | C10H8FNO
